US05527786
A 8.5 g quantity of 5'-chloro-2'-hydroxyacetophenone and 6.0 g of p-tolualdehyde were dissolved in 105 ml of ethanol. Then 17 ml of an aqueous solution containing 10 g of sodium hydroxide was slowly added thereto dropwise and stirred at room temperature for 4 hours. Then 350 ml of ethanol and 17 ml of an aqueous solution containing 3.5 g of sodium hydroxide were added to the reaction mixture, and 8.3 ml of a 30% aqueous hydrogen peroxide solution was further added dropwise slowly and stirred at room temperature for 12 hours. A 10% aqueous HCl solution was added to adjust the reaction mixture to pH 3. The crystals precipitated were collected by filtration and washed serially with 10 ml of water, 5 ml of ethanol and 10 ml of diethyl ether, thus giving 6.0 g of 6-chloro-3-hydroxy-2-(4-methylphenyl)-4H-1-benzopyran-4-one as crystals.

reactant | 5'-chloro-2'-hydroxyacetophenone | ClC=1C=CC(=C(C1)C(C)=O)O | C8H7ClO2
reactant | p-tolualdehyde | 6.0 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | sodium hydroxide | 3.5 g | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | HCl | Cl | ClH
solvent | ethanol | 105 ml | C(C)O | C2H6O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 6-chloro-3-hydroxy-2-(4-methylphenyl)-4H-1-benzopyran-4-one | 6.0 g | ClC=1C=CC2=C(C(C(=C(O2)C2=CC=C(C=C2)C)O)=O)C1 | C16H11ClO3
